US07851622B2
A. 1-(4-(2-(4-Chlorophenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl)-2-methoxyphenoxy)-2-methylpropan-2-yl 2-(tert-butoxycarbonylamino)acetate
To a solution of 2-(4-chlorophenyl)-6-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)thieno[2,3-d]pyridazin-7(6H)-one (100 mg, 0.219 mmol) that was prepared in Example 9,4-(pyrrolidin-1-yl)pyridine (32.4 mg, 0.219 mmol) and boc-glycine (192 mg, 1.094 mmol) in CH2Cl2 (10 ml) was added N,N′-diisopropylcarbodiimide (0.170 ml, 1.094 mmol). The mixture was stirred at reflux for 1 hours and then at RT for 18 hours. LC-MS analysis revealed desired product as well as the imide resulting from condensation with a second Boc-glycine. The later product was cleaved to regenerate desired product by addition of hydrazine (0.343 ml, 10.94 mmol) was added and the stirring at RT for 30 min. The reaction was diluted with a solution of saturated NaHCO3 (15 ml) and extracted with CH2Cl2 (20 ml). The CH2Cl2 extracts were dried over Na2SO4 and concentrated. The crude product was purified by ISCO chromatography on two silica gel column (2×12 g) employing a 10 min gradient ranging from hexane to 100% ethyl acetate to elute 1-(4-(2-(4-chlorophenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl)-2-methoxyphenoxy)-2-methylpropan-2-yl 2-(tert-butoxycarbonylamino)acetate (130 mg, 0.212 mmol, 97% yield) as light brown solid.

reactant | 2-(4-chlorophenyl)-6-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)thieno[2,3-d]pyridazin-7(6H)-one | 0.219 mmol, 100 mg | ClC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)S1 | C23H21ClN2O4S
reactant | boc-glycine | 1.094 mmol, 192 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | N,N′-diisopropylcarbodiimide | 1.094 mmol, 0.170 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-(4-Chlorophenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl)-2-methoxyphenoxy)-2-methylpropan-2-yl 2-(tert-butoxycarbonylamino)acetate | C(C)(C)(C)OC(=O)NCC(=O)OC(COC1=C(C=C(C=C1)N1N=CC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC)(C)C | C30H32ClN3O7S
